US06159919
One-hundred grams of sodium p-phenolsulfonate which was previously dehydrated was dispersed in 300 g of dimethylformamide (hereinafter simply referred to as "DMF"), and lauroyl chloride at 50° C. was added dropwise to the above mixture over a period of 30 minutes while stirring with a magnetic stirrer. After completing the dropwise addition, the components were allowed to react with one another for 3 hours. Thereafter, the DMF was distilled off at 100° C. under a reduced pressure of 0.5 to 1 mmHg. After rinsing the resulting mixture with acetone, recrystallization was carried out in a water/acetone solvent (molar ratio 1:1), to give sodium lauroyloxybenzenesulfonate (yield 85%).

reactant | sodium p-phenolsulfonate | One-hundred grams | C1=CC(=CC=C1O)S(=O)(=O)[O-].[Na+]
reactant | lauroyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | dimethylformamide | 300 g | CN(C=O)C | C3H7NO
product | sodium lauroyloxybenzenesulfonate | yield 85% | C(CCCCCCCCCCC)(=O)OC1=C(C=CC=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C18H28O5S.Na/c1-2-3-4-5-6-7-8-9-10-15-18(19)23-16-13-11-12-14-17(16)24(20,21)22;/h11-14H,2-10,15H2,1H3,(H,20,21,22);/q;+1/p-1
